Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Dilaudid / Iodine
 
Attending: ___.
 
Chief Complaint:
Juxtarenal abdominal aortic
aneurysm.

 
Major Surgical or Invasive Procedure:
___ Resection and repair of abdominal aortic aneurysm with 
20-mm Dacron tube graft.

 
History of Present Illness:
This ___ gentleman has a 5.5-cm infrarenal abdominal 
aortic aneurysm that has been enlarging. The aneurysm has no 
neck and is unsuitable for endovascular repair and he is 
undergoing open repair.

 
Past Medical History:
CAD MI in ___ s/p right coronary stents, hypercholesterolemia 
prostate cancer s/p TURP and radiation c/b radiation cystitis 
with recurrent episodes of hematuria weekly
 
Social History:
___
Family History:
Family history is notable for coronary artery disease in both 
his mother and father who passed from myocardial infarctions. 
There is no family history of any aneurysmal disease.
 
Physical Exam:
On Discharge:
AFVSS 98.8  HR: 87   BP: 123/63  RR: 16   Spo2: 94%
Gen: NAD, Alert and oriented x3
___: RRR
Pulm: CTA bilaterally no resp distress
Abd: S/AT/ND C/D/I
Extremities: Mild BLE edema
 
Pertinent Results:
___ 01:17PM BLOOD WBC-6.9 RBC-3.40* Hgb-10.0* Hct-30.0*# 
MCV-88 MCH-29.5 MCHC-33.5 RDW-15.3 Plt Ct-85*
___ 03:10AM BLOOD WBC-8.9 RBC-3.24* Hgb-9.8* Hct-28.8* 
MCV-89 MCH-30.2 MCHC-33.9 RDW-15.5 Plt Ct-71*
___ 02:33AM BLOOD WBC-14.0*# RBC-3.79* Hgb-11.1* Hct-32.9* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-16.9* Plt Ct-67*
___ 03:56AM BLOOD WBC-16.0* RBC-3.71* Hgb-10.8* Hct-31.6* 
MCV-85 MCH-29.0 MCHC-34.1 RDW-16.8* Plt Ct-96*
___ 04:00AM BLOOD WBC-12.6* RBC-3.60* Hgb-10.7* Hct-31.9* 
MCV-89 MCH-29.8 MCHC-33.7 RDW-16.7* Plt Ct-94*
___ 09:20AM BLOOD WBC-12.6* RBC-4.22* Hgb-12.0* Hct-37.1* 
MCV-88 MCH-28.5 MCHC-32.5 RDW-16.3* Plt ___
___ 06:25AM BLOOD WBC-8.4 RBC-3.93* Hgb-11.2* Hct-34.6* 
MCV-88 MCH-28.6 MCHC-32.5 RDW-16.2* Plt ___
___ 08:06PM BLOOD Neuts-90.2* Lymphs-5.0* Monos-4.0 Eos-0.1 
Baso-0.0
___ 01:17PM BLOOD Plt Smr-LOW Plt Ct-85*
___ 03:56AM BLOOD PTT-28.0
___ 01:17PM BLOOD Glucose-155* UreaN-17 Creat-0.9 Na-140 
K-4.1 Cl-109* HCO3-25 AnGap-10
___ 06:25AM BLOOD Glucose-99 UreaN-34* Creat-1.5* Na-142 
K-3.0* Cl-104 HCO3-29 AnGap-12
___ 08:06PM BLOOD Calcium-7.9* Phos-4.0 Mg-1.4*
___ 06:25AM BLOOD Calcium-7.8* Phos-3.1 Mg-2.0
___ 11:23AM BLOOD Type-ART pO2-261* pCO2-38 pH-7.40 
calTCO2-24 Base XS-0 Intubat-INTUBATED Vent-CONTROLLED
___ 12:16PM BLOOD Type-ART pO2-258* pCO2-51* pH-7.29* 
calTCO2-26 Base XS--2 Intubat-INTUBATED Vent-CONTROLLED
___ 01:47PM BLOOD Type-ART FiO2-50 pO2-136* pCO2-40 pH-7.41 
calTCO2-26 Base XS-1 -ASSIST/CON Intubat-INTUBATED
___ 05:30PM BLOOD Type-ART Rates-/11 PEEP-5 FiO2-40 pO2-88 
pCO2-51* pH-7.34* calTCO2-29 Base XS-0 Intubat-INTUBATED
___ 08:25PM BLOOD Type-MIX
___ 03:25AM BLOOD Type-ART pO2-78* pCO2-46* pH-7.33* 
calTCO2-25 Base XS--1
___ 06:36PM BLOOD Type-ART pO2-56* pCO2-27* pH-7.45 
calTCO2-19* Base XS--2 Intubat-INTUBATED
___ 02:48AM BLOOD ___ pH-7.44
___ 11:23AM BLOOD freeCa-1.09*
___ 02:48AM BLOOD freeCa-1.14
 
Brief Hospital Course:
The patient was admitted to the surgery service after having 
Resection and repair of abdominal aortic aneurysm with 20-mm 
Dacron tube graft.
 
Neuro: The patient received and epidural with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral pain medications Tramadol.  
 
CV:  Post-operatively the patients blood pressure was managed 
with IV labetolol drip and nitroprusside.  On discharge the was 
stable from a cardiovascular standpoint;  vital signs were 
routinely monitored. He is currently on Metoprolol for beta 
blockage with good blood pressure management.    
 
Pulmonary:   On discharge patient was stable from a pulmonary 
standpoint; vital signs were routinely monitored.  Good 
pulmonary toilet, early ambulation and incentive spirometry were 
encouraged throughout this hospitalization.  He did have a CXR 
on ___ which revealed opacities and pneumonia could not be 
excluded. He will be discharged with levo/flagyl for suspect 
pneumonia for a 2 week course.
 
GI/GU/FEN: 
Post operatively, the patient was made NPO with IVF.  
The patient's diet was advanced when appropriate, which was 
tolerated well.  
The patient's intake and output were closely monitored, and IVF 
were adjusted when necessary.  The patient's electrolytes were 
routinely followed during this hospitalization, and repleted 
when necessary.  
 
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. He will be discharged 
with levo/flagyl for suspect pneumonia for a ___ndocrine:  The patient's blood sugar was monitored throughout 
this stay; insulin dosing was adjusted accordingly. Sliding 
scale to be continued. 
 
Prophylaxis:  The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible.  
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.

 
Medications on Admission:
Accupril,Amoxicillin,Atenolol,ASA,Axid,Rosovastatin, 
Fluticasone, Casodex, Eligard 

 
Discharge Medications:
1. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 2 weeks: PNA treatment.  
2. Levofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 2 weeks: PNA treatment.  
3. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day): New medication
.  
4. Quinapril 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
5. Insulin Regular Human 100 unit/mL Solution Sig: One (1)  
Injection ASDIR (AS DIRECTED): per sheet.  
6. Rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
8. Bicalutamide 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
12. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: One (1)  
Injection Q8H (every 8 hours) as needed for nausea.  
13. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
14. Axid ___ mg Capsule Sig: One (1) Capsule PO once a day.  
15. Flonase 50 mcg/Actuation Spray, Suspension Sig: ___  Nasal 
once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Juxtarenal abdominal aortic aneurysm

PMH:
CAD
Hypercholesterolemia 
Prostate cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Abdominal Aortic Aneurysm (AAA) Surgery Discharge Instructions
What to expect when you go home:

1. It is normal to feel weak and tired, this will last for ___ 
weeks 

·     You should get up out of bed every day and gradually 
increase your activity each day 

·     You may walk and you may go up and down stairs 

·     Increase your activities as you can tolerate- do not do 
too much right away!

2. It is normal to have incisional and leg swelling:

·     Wear loose fitting pants/clothing (this will be less 
irritating to incision) 

·     Elevate your legs above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night

·     Avoid prolonged periods of standing or sitting without 
your legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 

·     You will probably lose your taste for food and lose some 
weight 

·     Eat small frequent meals

·     It is important to eat nutritious food options (high 
fiber, lean meats, vegetables/fruits, low fat, low cholesterol) 
to maintain your strength and assist in wound healing

·     To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:

·     No driving until post-op visit and you are no longer 
taking pain medications

·     You should get up every day, get dressed and walk, 
gradually increasing your activity

·     You may up and down stairs, go outside and/or ride in a 
car

·     Increase your activities as you can tolerate- do not do 
too much right away!

·     No heavy lifting, pushing or pulling (greater than 5 
pounds) until your post op visit 

·     You may shower (let the soapy water run over incision, 
rinse and pat dry)

·     Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

·     Take all the medications you were taking before surgery, 
unless otherwise directed

·     Take one full strength (325mg) enteric coated aspirin 
daily, unless otherwise directed 

·     Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:

·     Redness that extends away from your incision

·     A sudden increase in pain that is not controlled with pain 
medication

·     A sudden change in the ability to move or use your leg or 
the ability to feel your leg

·     Temperature greater than 101.5F for 24 hours

·     Bleeding from incision

·     New or increased drainage from incision or white, yellow 
or green drainage from incisions

 
Followup Instructions:
___